US05580877
3,5-Dihydro-2-phenyl-1H-pyrazolo[3,4-c]quinoline-1,4(2H)-dione
Ethyl oxindole-3-glyoxylate (220 rag) in glacial acetic acid (2 ml) was heated under reflux for 10 minutes with phenylhydrazine (0.1 ml). The reaction was cooled and the resulting precipitate filtered and crystallised from methanol to give the title compound, mp>260° C.; 1H nmr (250 MHz, d6 -DMSO) δ5 11.86 (1H, broad s), 8.25 (1H, broad d), 7.86 (2H, d, J=8 Hz), 7.56 (2H, t, J=8 Hz) and 7.22-7.42 (4H, m).

reactant | Ethyl oxindole-3-glyoxylate | N1C(C(C2=CC=CC=C12)C(C(=O)OCC)=O)=O | C12H11NO4
reactant | phenylhydrazine | 0.1 ml | C1(=CC=CC=C1)NN | C6H8N2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 3,5-Dihydro-2-phenyl-1H-pyrazolo[3,4-c]quinoline-1,4(2H)-dione | C1(=CC=CC=C1)N1NC=2C(NC=3C=CC=CC3C2C1=O)=O | C16H11N3O2
